US07629473B2
Synthesis of 1. {2-[5-fluoro-2-(1H-indol-3-ylsulfanyl)-phenyl]-ethyl}-methyl-amine
{2-[5-Fluoro-2-(1H-indol-3-ylsulfanyl)-phenyl]-ethyl}-methyl-carbamic acid tert-butyl ester (99 mg, 0.24 mmol) is dissolved in methanol (1.5 mL) and diethyl ether saturated with hydrochloric acid (0.5 mL) is added. The mixture is stirred at ambient temperature for 2 hours and concentrated in vacuo. Water (5 mL) is added to the remanence and the mixture is basified by addition of aqueous ammonia (25%). The aqueous fraction is extracted with ethyl acetate (3×10 mL). The combined organic fractions are dried (MgSO4) and concentrated in vacuo. The product is purified by preparative HPLC or silica gel chromatography eluting with ethyl acetate-ethanol-triethyl amine (100:5:5) to give 62 mg (83%) of the title compound.

reactant | {2-[5-Fluoro-2-(1H-indol-3-ylsulfanyl)-phenyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 0.24 mmol, 99 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC(=C1)F)SC1=CNC2=CC=CC=C12)=O | C22H25FN2O2S
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
product | {2-[5-fluoro-2-(1H-indol-3-ylsulfanyl)-phenyl]-ethyl}-methyl-amine | 62 mg, 83% | FC=1C=CC(=C(C1)CCNC)SC1=CNC2=CC=CC=C12 | C17H17FN2S
